US07470798B2
1.0 gram (3.16 mmol) of 3-(6-hydroxy-2-methyl-3,4,7,8,9,10-hexahydro-7,10-methano-2H-benzo[h]chromen-2-yl)-propionic acid methyl ester, prepared as described in Example 13, was mixed with 20 mL of 2N NaOH and 20 mL of dioxane, the mixture was stirred for 5 hours and was acidified with dilute HCl. Water and ethyl acetate were added and the organic layer was separated, washed and dried over MgSO4. After the removal of solvents, the residue was further purified by flash column chromatography on silica gel (3:2 ethyl acetate/hexane) to afford 700 mg of 3-(6-hydroxy-2-methyl-3,4,7,8,9,10-hexahydro-7,10-methano-2H-benzo[h]chromen-2-yl)-propionic acid. 1H-NMR (300 MHz, CDCl3) δ (ppm): 6.29 (s, 1H), 4.70 (s, 1H), 3.52-3.46 (d, 2H), 2.69-2.55 (m, 2H), 2.52-2.47 (m, 2H), 2.00-1.64 (m, 8H), 1.43-1.15 (m,5H); MS: 302 (M+H+, 73%), 325 (M+Na+, 100%).

reactant | 3-(6-hydroxy-2-methyl-3,4,7,8,9,10-hexahydro-7,10-methano-2H-benzo[h]chromen-2-yl)-propionic acid methyl ester | 3.16 mmol, 1.0 gram | COC(CCC1(OC2=C3C(=C(C=C2CC1)O)C1CCC3C1)C)=O | C19H24O4
reactant | NaOH | 2N, 20 mL | [OH-].[Na+]
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 3-(6-hydroxy-2-methyl-3,4,7,8,9,10-hexahydro-7,10-methano-2H-benzo[h]chromen-2-yl)-propionic acid | 700 mg | OC=1C=C2CCC(OC2=C2C1C1CCC2C1)(C)CCC(=O)O | C18H22O4
